US08198279B2
tert-butyl 4-(2,3-diaminopyridin-4-yloxy)phenylcarbamate (0.86 g, 2.71 mmol) was dissolved in 15 ml of dry ethanol; 0.8 ml (4 mmol) of a 50% ethyl glyoxalate solution in toluene were added and the solution was stirred overnight at room temperature under Argon atmosphere. The solvent was partially evaporated, and tert-butyl 4-(2-oxo-1,2-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenylcarbamate (0.430 g, 45% yield) is precipitated by addition of acetone (10 ml) and filtered off.

reactant | tert-butyl 4-(2,3-diaminopyridin-4-yloxy)phenylcarbamate | 2.71 mmol, 0.86 g | NC1=NC=CC(=C1N)OC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C16H20N4O3
reactant | ethyl glyoxalate | C(C=O)(=O)OCC | C4H6O3
reactant | acetone | 10 ml | CC(=O)C | C3H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(2-oxo-1,2-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenylcarbamate | 0.430 g, 45% yield | O=C1NC2=C(N=C1)N=CC=C2OC2=CC=C(C=C2)NC(OC(C)(C)C)=O | C18H18N4O4
